US04013666
To a suspension of 5 parts of 3,4-dihydro-6,7-dimethoxy-1-[(3,4,5-trimethoxyphenyl)methylene]isoquinoline in 50 parts of benzene is added 15 parts of pyridine, followed by 3 parts of cyclohexanecarbonyl chloride. The resultant mixture is heated at the boiling point under reflux in a nitrogen atmosphere for 2 hours, then cooled, consecutively washed with water and aqueous 5% sodium becarbonate, dried over anhydrous sodium sulfate, and stripped of solvent by vacuum distillation. The residue is crystallized from a mixture of ethyl acetate and ether to afford (Z)-2-cyclohexanecarbonyl-1,2,3,4-tetrahydro-6,7-dimethoxy-1-[(3,4,5-trimethoxyphenyl)methylene]isoquinoline melting at 162°-164°.

reactant | 3,4-dihydro-6,7-dimethoxy-1-[(3,4,5-trimethoxyphenyl)methylene]isoquinoline | COC=1C=C2CCNC(C2=CC1OC)=CC1=CC(=C(C(=C1)OC)OC)OC | C21H25NO5
reactant | benzene | C1=CC=CC=C1 | C6H6
reactant | cyclohexanecarbonyl chloride | C1(CCCCC1)C(=O)Cl | C7H11ClO
solvent | pyridine | N1=CC=CC=C1 | C5H5N
product | (Z)-2-cyclohexanecarbonyl-1,2,3,4-tetrahydro-6,7-dimethoxy-1-[(3,4,5-trimethoxyphenyl)methylene]isoquinoline | C1(CCCCC1)C(=O)N1\C(\C2=CC(=C(C=C2CC1)OC)OC)=C/C1=CC(=C(C(=C1)OC)OC)OC | C28H35NO6
